Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I was at a concert at ___, I got into a
fight with my girlfriend and she left, I was sitting there for
hours. Then my 2 buddies left, I went to the bridge above the
___ and stood there, then the cops found me and called the
EMTs." 
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Briefly, Mr. ___ is a ___ year old male ___ student 
with no prior psychiatric treatment as an adult who was BIB EMS 
after a friend called ___ due to his having sent suicidal text 
messages, found by BPD standing on a bridge over the ___. 
This event occurred in the context of significant alcohol 
intoxication and argument with his girlfriend.  Per initial 
consultation note by Dr. ___, "He reports that he had been 
thinking about suicide before this incident. He reports that he 
has been intermittently thinking about suicide since middle 
school, but that it has become more frequent recently. He 
reports feeling depressed "for no reason", and that "I have no 
reason to be sad, but still am." He reports that he knows he has 
a great family, friends and girlfriend and that his grades are 
good and that he is working on joining the ___ for after 
graduation, but that despite this he still feels "depressed and 
miserable." He reports that some days are better than others and 
that his energy level depends on the day, and that there are 
some days where he can be fine and hanging out with friends, but 
other days where he "can't stand" to be around them. Also 
reports poor appetite, only eating 1 meal/day, and poor sleep 
(difficulty falling asleep due to thinking too much).
. 
He endorses feeling hopeless."  Additional stressor noted in the 
ED consult include seeing his childhood sexual abuser recently. 
On admission interview, patient confirms the above information.  
States he got made some "jokes" that upset his girlfriend 
resulting in her leaving the ___ area.  They had been 
drinking alcohol throughout the day and he believes this is a 
partial reason for her strong reaction to his comments.  Because 
he was also drinking, he was unable to stop thinking about this 
argument and trying to repair things throughout the day. 
Eventually, he ended up alone and thinking about what happened. 
States he was near the bridge but doesn't think he would have
actually jumped.  Currently denying any suicidal ideation but 
worries about how this hospitalization will affect his life 
(girlfriend, future career, current school etc).  
.
Patient reports history of depression beginning in middle 
school. He saw a therapist for a short period of time which he 
felt was unhelpful. History of cutting but not for many years. 
Indicates worsening of his mood recently with increase in panic 
attack as well. 
.
Collateral obtained by Dr. ___ "Mother ___ 
(___) and father ___ ___ - are 
divorced but intend to be a united front on this issue. Can 
notify either of them with updates and they will tell the other. 
Were interviewed together in person. Mother reports that her 
understanding is that he was at a concert all day partying, she 
was actually supposed to meet him at the concert but decided not 
to go. She understands that something happened with his 
girlfriend, he called her obviously intoxicated. His friend 
called the police. He did text his parents saying "I love you, 
we've had some great times." On the phone when he called his 
mother, was sobbing. The police found him and called them when 
they found him. They feel that it is completely out of character 
for him to be suicidal, but feel that it "makes sense that he's 
gotten to a breaking point, he's under a ton of pressure, 
graduating in two weeks, applying to a job in the ___, 
___ in his class, working in the ___ place above his 
apartment with a new boss who is also his landlord and might 
evict him," they note they have offered to let him move home but 
that he has declined, and also note stress in his relationship 
with his girlfriend. They therefore say they are not surprised 
that he is "at a breaking point." When asked if they would feel 
safe taking him home tonight, they reply "maybe, but he needs 
more time to sober up." His mother states that she would be 
supportive of his getting psychiatric and substance use 
treatment, and reports that she had not known he was previously 
suicidal before tonight and that she is somewhat concerned 
hearing that. She also notes that this relationship with his 
girlfriend is his first serious relationship and that he is very 
anxious and has now been reporting panic attacks to her. She 
also notes that he wants to go into law enforcement and takes 
supplements for working out, and wonders if he could be taking 
steroids that would impact his mood. She also notes that there 
is a gun in her home and that they go shooting together. The 
patient's father states that he really thinks alcohol had a 
bigger role in this presentation than psych concerns, and is 
very concerned about the potential impact of a psychiatric 
hospitalization on his school or future career. He also notes 
feeling reassured that the patient texted so many people."
 
Past Medical History:
Past psychiatric history, per initial consult note and updated 
as needed:
- Hospitalizations: Denies 
- Past diagnoses: denies
 - Medication and ECT trials: denies
 - Current treaters and treatment: Notes that he did see a 
counselor in ___ grade but none since and never a psychiatrist
- Suicide attempts: denies
 - Self-injury: cutting on thigh, never required medical 
attention, not since a teenager
- Trauma: Sexual abuse between ages ___ by an older friend
 - Harm to others: denies
- Access to weapons: Yes, is licensed, reports "I wouldn't use a
gun to shoot myself because I'm an advocate for gun rights and I
wouldn't want to be a statistic used to argue against gun
rights."
.
Past Medical History: none 
 
Social History:
Substance use history, per initial consult note and updated as 
needed:
- EtOH: Endorses drinking 2x/week, denies blackouts or ever 
having withdrawal symptoms, reports having had 7 nips, a coconut 
rum ball, and 5 beers earlier today. Endorses high tolerance for 
alcohol
- Tobacco: Vapes daily, states smokes cigarettes every so often 
but is trying to cut back
- Marijuana: States not since ___ break
- Illicits: Denies
. 
Personal and Social History, per initial consult note and 
updated as needed:
- B/R - ___. Grew up with mom, dad and sister, parents 
got divorced at age ___. 
- Housing - Lives in ___ w/roommate off campus
- Education - graduating at the end ___ with degree in
- ___ and ___ ___
- Employment - enlisting in ___ for after graduation.
- Currently works part time in ___ below his apartment 
and also in ___ department at his school 
- Religion- states he is "not really religious" 
 
Family History:
Family psychiatric history, per initial consult note and updated 
as needed:
- States he has a half sister who goes to counseling for 
depression/anxiety and a grandmother who is bipolar.  Mother 
with hx of depression and prior poor trial of prozac
- Suicide: denies
 
Physical Exam:
Physical Examination:
___ Temp: 98.5 PO BP: 133/80 R Sitting HR: 105 RR: 18
O2 sat: 95% 

General- awake/alert, NAD
Skin- warm, dry 
HEENT- moist mucous membranes, no scleral icterus 
Neck and Back- supple
Lungs- CTAB, no wheezes
CV- RRR, no murmur
Abdomen: Soft, non-distended, non-tender
Extremities- no calf tenderness
Neuro-
CN: pupils symmetry and responsiveness to light and EOM: intact
     facial sensation to light touch in all 3 divisions: intact
     facial symmetry on eye closure and smile: intact and no
asymmetry.  head turning and shoulder shrug: normal bilaterally
     tongue: midline, no atrophy
Motor:
___ strength in upper/lower extremities 

Sensation: intact to light touch
Coordination:
     Finger-nose-finger intact

Gait/Romberg: stable 

Neuropsychiatric Examination:
  *Appearance: age appearing, adequate grooming, dressed
appropriately, tanned skin, visible tattoos to L arm
  Behavior: calm, cooperative, engaged, good eye contact 
  *Mood and Affect: "upset I did that"; affect restricted,
dysphoric 
  *Thought process: linear, no loosening of association 
  *Thought Content: no current SI, no AVH, no paranoia or
delusions
  *Judgment and Insight: fair/fair 

  Cognition:
   Orientation: ___, ___
    *Attention: intact to MOYB and interview 
    *Memory: grossly intact 
    *Fund of knowledge: Average 
    Calculations: 1.75 7 quarters 
    Abstraction: abstract 
    *Speech: normal rate/rhythm/tone
    *Language:fluent ___ 

 
Pertinent Results:
___ 07:20PM BLOOD WBC-8.9 RBC-5.23 Hgb-15.9 Hct-48.0 MCV-92 
MCH-30.4 MCHC-33.1 RDW-12.0 RDWSD-40.8 Plt ___
___ 07:20PM BLOOD Glucose-97 UreaN-11 Creat-0.9 Na-147 
K-4.9 Cl-105 HCO3-27 AnGap-15
___ 07:20PM BLOOD ALT-29 AST-26 AlkPhos-43 TotBili-<0.2
___ 07:20PM BLOOD TSH-1.3
___ 07:20PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
#. Legal/Safety: Patient was admitted on a section 12a, and upon 
admission, he signed a CV and a 3 day notice that expired on day 
of discharge. Patient maintained his safety throughout his 
admission on 15 minute checks and green sharps. Given his good 
behavioral control on the unit with consistent denial of 
suicidal ideation or thoughts of self harm, he did not meet 
criteria to file a section 7&8b. 
.
#. Major depressive disorder: 
On initial interview, patient reports worsening anxiety and 
panic recently along with chronically depressed mood.  Patient 
reported intermittent suicidal ideation for many years but 
denies any prior attempts. Also reported prior hx of SIB by 
cutting in middle school, no recent engagement in SIB. MSE on 
admission was notable for dysphoric affect, thought process 
linear, no current SI and intact cognitive exam. While this 
event occurred in the setting of significant alcohol 
intoxication, it seems patient has been struggling with mood 
disorder for many years and with current worsening of symptoms 
suggestive of a major depressive episode. No concern for current 
or prior mania, no concern for psychosis. There is family 
history for bipolar disorder so patient was educated about this 
possibility for him as well.  After discussion, patient was 
agreeable to initiate trial of Lexapro 10mg daily. He tolerated 
this medication well without any reported side effects. He also 
tolerated PRN Vistaril 25mg at night for insomnia. Patient was 
able to engage with treatment team appropriately and attended 
groups throughout the day. A family meeting was held with his 
parents and friend to discuss safety and discharge planning. 
Given patient's reported improvement in mood, lack of suicidal 
ideation, coordination of discharge with family  
.
3) Substance Use Disorders
-Binge drinking behavior- will engage patient in counseling 
around alcohol use and effect on mental health. Discussed AA and 
SMART recovery options for outpatient substance abuse support
.
-Nicotine- daily vape use, will counsel patient on ill effects 
on health, offer nicotine replacement if needed. Was provided 
with nicotine gum prescription on discharge
.
4) Medical: No active concerns
.
PSYCHOSOCIAL
#) GROUPS/MILIEU:  The patient was encouraged to participate in  
the various groups and milieu therapy opportunities offered by  
the unit. The patient selectively attending these groups that 
focused on teaching patients various coping skills. He was often 
seen in the milieu socializing with others.   
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
The patients family and friends were involved during this 
hospitalization. Meeting was held with patient's family on day 
prior to discharge. Patient and family actively engaged in 
safety planning (e.g. what patient would do in the event of 
worsening depression or suicidal ideation; see below).

#) INTERVENTIONS
- Medications: Escitalopram 10mg daily, Vistaril 25mg QHS PRN 
insomnia 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
 - Coordination of aftercare: See below
.
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Lexapro, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient. We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team. The patient 
appeared able to understand and consented to begin the 
medication.
.
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at 
acutely elevated risk of self-harm due to suicidal ideation and 
intoxication. Static risk factors included male gender, history 
of trauma, prior self-injury, and age. Modifiable risk factors 
appraised to be current substance use, untreated mental illness, 
lack of outpatient providers, and active suicidal ideation; 
these factors were addressed by initiating treatment with SSRI 
and referring patient to outpatient providers and encouraging 
patient to participate in substance abuse support group. 
Finally, patient is being discharged with many protective 
factors, including robust family and friend support, 
intelligence, medication adherence, future-oriented plans, and 
lack of suicidal ideation. Overall, at time of discharge, 
patient was no longer at acutely elevated risk of harm and 
therefore did not require ongoing involuntary inpatient 
admission.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Escitalopram Oxalate 20 mg PO QHS 
Take ___ tablet at night for 5 days, then increase to 1 tablet 
per night 
RX *escitalopram oxalate 20 mg 1 tablet(s) by mouth at night 
Disp #*30 Tablet Refills:*0 
2.  HydrOXYzine 25 mg PO QHS:PRN insomnia  
RX *hydroxyzine HCl 25 mg 1 tablet by mouth at night Disp #*30 
Tablet Refills:*0 
3.  Nicotine Polacrilex 2 mg PO Q1H:PRN nicotine cravings 
RX *nicotine (polacrilex) 2 mg 1 piece of gum every 1 hour Disp 
#*40 Gum Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder 

 
Discharge Condition:
Vitals: 98.1 PO, 121 / 79, 78,18,99%
MSE:
Neuropsychiatric Examination:
*Appearance: age appearing, adequate grooming, dressed 
appropriately, tanned skin, visible tattoos to L 
arm(representations of various bands)
Behavior: calm, cooperative, engaged, good eye contact 
*Mood and Affect: 'good'; affect restricted in range, but 
broader than upon admission; reactive, stable
*Thought process: linear, no loosening of association 
*Thought Content: no current SI, no AVH, no paranoia or 
delusions
*Judgment and Insight: fair/fair 

  Cognition:
   Orientation: intact 
    *Attention: intact to MOYB and interview 
    *Memory: grossly intact 
    *Fund of knowledge: Average  
    *Speech: normal rate/rhythm/tone
    *Language: fluent ___ 

 
Discharge Instructions:
You were admitted to the hospital after concerns for your safety 
were raised. 

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___